US07449466B2
Production Example 9 was repeated except that 5-bromo-2-methoxytoluene and 1-phenethylpiperazine were replaced with 4-bromo-2,5-difluoroanisole (338 mg) and 4-(3-cyclohexylpropyl)-piperidine (953 mg), respectively. The resulting crude product was purified on silica gel column chromatography (eluent, hexane: ethyl acetate=3:1) to provide 4-(3-cyclohexylpropyl)-1-(2,5-difluoro-4-methoxyphenyl)piperidine (523 mg).

reactant | 5-bromo-2-methoxytoluene | BrC=1C=CC(=C(C1)C)OC | C8H9BrO
reactant | 1-phenethylpiperazine | C(CC1=CC=CC=C1)N1CCNCC1 | C12H18N2
reactant | 4-bromo-2,5-difluoroanisole | 338 mg | BrC1=CC(=C(C=C1F)OC)F | C7H5BrF2O
reactant | 4-(3-cyclohexylpropyl)-piperidine | 953 mg | C1(CCCCC1)CCCC1CCNCC1 | C14H27N
product | 4-(3-cyclohexylpropyl)-1-(2,5-difluoro-4-methoxyphenyl)piperidine | 523 mg | C1(CCCCC1)CCCC1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F | C21H31F2NO
